US04576905
2-(2,2-Dimethyl-1,3-dioxolan-4-yl)ethyl trifluoromethane sulfonate was prepared in carbon tetrachloride solution and used as a dried solution in this example in the same way as 2-propen-1-yl trifluoromethanesulfonate was prepared and used in Examples 41 through 44, starting with 2,2-di-methyl-4-(2-hydroxyethyl)1,3-dioxolane and trifluoromethanesulfonate.

reactant | 2-propen-1-yl trifluoromethanesulfonate | FC(S(=O)(=O)OCC=C)(F)F | C4H5F3O3S
reactant | 2,2-di-methyl-4-(2-hydroxyethyl)1,3-dioxolane | CC1(OCC(O1)CCO)C | C7H14O3
reactant | trifluoromethanesulfonate | FC(S(=O)(=O)[O-])(F)F
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-(2,2-Dimethyl-1,3-dioxolan-4-yl)ethyl trifluoromethane sulfonate | FC(S(=O)(=O)OCCC1OC(OC1)(C)C)(F)F | C8H13F3O5S
